US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-hydroxybenzamide
A suspension of sodium 4-acetoxybenzoate (1.0 g, 5.4 mmol) in thionyl chloride (15 mL) was heated at reflux for I h (the mixture became homogeneous). The excess of thionyl chloride was evaporated in vacuo, the residue was treated with toluene and again the solvent was removed in vacuo. Crude acid chloride (150 mg, 0.77 mmol ) was dissolved in methylene chloride (5 mL) and added dropwise to an ice-cooled solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (180 mg, 0.73 mmol) and triethylamine (150 μL, 1.1 mmol) in methylene chloride (20 mL). After the addition the reaction was allowed to stir at ambient temperature for 15 min and was then washed with diluted aqueous sodium hydrogen carbonate. The phases were separated and the organic phase was dried (Na2SO4), filtered and evaporated in vacuo. The residue was dissolved in 99.5% ethanol (15 mL) and concentrated hydrochloric acid (5 mL) was added. After 17 h, the pH was adjusted to 8 and the solvent evaporated in vacuo. The residue was partitioned between water and chloroform. The organic phase was separated, dried (Na2SO4), filtered and evaporated in vacuo to give a crude product which was purified on a silica gel column using chloroform/ethanol saturated with NH3 (100:4) as the eluent. Yield: 70 mg (26%) of the title compound as an oil: [α]21D -17° (c 0.50, chloroform); EIMS (70 eV) m/z (relative intensity) 365 (24, M+).

reactant | sodium 4-acetoxybenzoate | 5.4 mmol, 1.0 g | C(C)(=O)OC1=CC=C(C(=O)[O-])C=C1.[Na+]
reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.73 mmol, 180 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
reactant | triethylamine | 1.1 mmol, 150 μL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 15 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-hydroxybenzamide | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=CC=C(C=C1)O)=O | C22H27N3O2
